US09216988B2
Step 1: (R)—N-(1-(4-Bromophenyl)ethyl)(phenyl)methanesulfonamide
Phenylmethanesulfonyl chloride (10.5 g, 55 mmol) was added into a solution of (R)-1-(4-bromophenyl)ethanamine (10 g, 50 mmol) in pyridine (100 mL) drop wise at 0° C. The reaction mixture was stirred at 10° C. for 1 hour. The reaction was poured into water (500 mL), the pH value adjusted to 5 with 6 N aqueous HCl, extracted with EtOAc (100 mL×4). The organic layer was dried over Na2SO4, filtered, and concentrated to provide the title compound (13 g, 73% yield) as pale yellow solid which was used in the next step without further purification.

reactant | Phenylmethanesulfonyl chloride | 55 mmol, 10.5 g | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | (R)-1-(4-bromophenyl)ethanamine | 50 mmol, 10 g | BrC1=CC=C(C=C1)[C@@H](C)N | C8H10BrN
reactant | water | 500 mL | O | H2O
reactant | HCl | 6 N | Cl | ClH
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | (R)—N-(1-(4-Bromophenyl)ethyl)(phenyl)methanesulfonamide | 13 g, 73% yield | BrC1=CC=C(C=C1)[C@@H](C)NS(=O)(=O)CC1=CC=CC=C1 | C15H16BrNO2S
